US06030984
8-(4-Benzyloxy-phenyl)-2-iodo-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-phenyl-amide
By lithiation of 8-(4-benzyloxy-phenyl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-phenyl-amide and reaction with iodine.

reactant | 8-(4-benzyloxy-phenyl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-phenyl-amide | COCCN(C(=O)C=1C=C(C(N2C=CC3=C(C12)SC=C3)=O)C3=CC=C(C=C3)OCC3=CC=CC=C3)C3=CC=CC=C3 | C34H28N2O4S
reactant | iodine | II | I2
product | 8-(4-Benzyloxy-phenyl)-2-iodo-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-phenyl-amide | COCCN(C(=O)C=1C=C(C(N2C=CC3=C(C12)SC(=C3)I)=O)C3=CC=C(C=C3)OCC3=CC=CC=C3)C3=CC=CC=C3 | C34H27IN2O4S
